US06534522B2
A) Ethyl 3-(4-benzylpiperidin-1-yl)butyrate
A solution of 4-benzyl piperidine (0.50 mL, 2.8 mmol) and ethyl crotonate (0.46 mL, 3.4 mmol) in isopropanol (10 mL) was refluxed for 24 h and was concentrated in vacuo. The crude compound was purified by filtration on silica gel using CH2Cl2/MeOH as solvent to afford the title compound as a pale yellow oil (0.64 g, 74%): 1H NMR (CDCl3) δ1.09 (d, J=6.6 Hz, 3H), 1.30 (t, J=6.9 Hz, 3H), 1.20-1.40 (m, 2H), 1.45-1.61 (m, 1H), 1.68 (bd, J=12.3 Hz, 2H), 2.10-2.35 (m, 3H), 2.57 (d, J=6.9 Hz, 2H), 2.50-2.70 (m, 1H), 2.82 (bd, J=10.8 Hz, 2H), 3.15-3.30 (m, 1H), 4.18 (q, J=6.9 Hz, 2H), 7.18 (d, J=7.2 Hz, 2H), 7.24 (m, 1H), 7.32 (t, J=6.9 Hz, 2H).

reactant | 4-benzyl piperidine | 2.8 mmol, 0.50 mL | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | ethyl crotonate | 3.4 mmol, 0.46 mL | C(\C=C\C)(=O)OCC | C6H10O2
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | Ethyl 3-(4-benzylpiperidin-1-yl)butyrate | 0.64 g, 74% | C(C1=CC=CC=C1)C1CCN(CC1)C(CC(=O)OCC)C | C18H27NO2
